US07592456B2
Step 2: (2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}phenyl)(1H-imidazol-2-yl)methanol
The title compound was prepared from sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate (193 mg, 0.62 mmol) and 1H-imidazol-2-yl(2-iodophenyl)methanol (171 mg, 0.57 mmol) according to the method of Example 6 Step 4. Purification by flash column chromatography eluting with ethyl acetate gave solid (2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}phenyl)(1H-imidazol-2-yl)methanol (135 mg, 51%). 1H NMR (500 MHz, d6-DMSO) δ 11.94 (1H, s), 8.54 (1H, s), 8.30 (1H, s), 8.19 (1H, d, J=8.6 Hz), 8.11 (1H, d, J=7.9 Hz), 8.07 (1H, d, J=8.7 Hz), 8.02-7.97 (1H, m), 7.94-7.86 (2H, m), 7.84 (1H, d, J=7.7 Hz), 7.78-7.67 (2H, m), 7.61-7.53 (1H, m), 7.41-7.32 (2H, m), 6.88 (1H, s), 6.84 (1H, d, J=5.2 Hz), 6.52 (1H, s), 6.12 (1H, d, J=5.2 Hz); m/z (ES+) 459 [MH+].

reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | 0.62 mmol, 193 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
reactant | 1H-imidazol-2-yl(2-iodophenyl)methanol | 0.57 mmol, 171 mg | N1C(=NC=C1)C(O)C1=C(C=CC=C1)I | C10H9IN2O
product | (2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}phenyl)(1H-imidazol-2-yl)methanol | 135 mg, 51% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1)C(O)C=1NC=CN1 | C26H19FN2O3S
